US07183414B2
The compound (8-Benzyloxy-quinolin-2-yl)-[4-(3-methyl-oxetan-3-ylmethoxy)-2-nitro-phenyl]-amine (5 g, 10.6 mmol, 1.0 equivalent), ethanol (50 mL, 10 volumes)i triethylamine (7.8 mL, 56.2 mmol, 5.3 equivalents), and palladium hydroxide on carbon (500 mg, 0.1 weight equivalents) were charged to a 100 mL round bottom flask. The solution was deoxygenated and then heated to 50° C. Once the reaction reached 50° C., formic acid (2.2 mL, 56.2 mmol, 5.3 equivalents) was charged slowly to control any exotherm or off-gasing. The reaction was then heated at 55° C. for 15–25 hours. After nitro group reduction and benzyl group removal was noted by APCI MS, the reaction was cooled to 40° C. and filtered through a pad of Celite. The flask and the filter cake were washed once with ethanol (2.5 volumes). The filtrate was then charged to another 100 mL round bottom flask containing formamidine acetate (2.3 g, 22.3 mmol, 2.1 equivalents) and the reaction was heated at reflux for ˜8 hours. At reaction completion, the reaction was cooled to 20–25° C. and allowed to granulate for 10–20 hours. The solids were isolated by filtration and dried under vacuum at 40° C. with a slight nitrogen bleed to afford 3.14 g of 2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-ol as a yellow solid (82% yield). 1H NMR (d6-DMSO): δ 9.88 (s, 1H), 9.25 (s, 1H), 8.61 (d, 1H, J=9.1 Hz), 8.51 (d, 1H, J=9.1 Hz), 8.10 (d, 1H, J=9.1 Hz), 7.44 (m, 2H), 7.35 (d, 1H, J=2.5 Hz), 7.18 (dd, 1H, J=7.5, 1.7 Hz), 7.08 (dd, 1H, J=8.7, 2.5 Hz), 4.51 (d, 2H, J=5.8 Hz), 4.31 (d, 2H, J=5.8 Hz), 4.12 (s, 2H), 1.39 (s, 3H).

reactant | (8-Benzyloxy-quinolin-2-yl)-[4-(3-methyl-oxetan-3-ylmethoxy)-2-nitro-phenyl]-amine | 10.6 mmol, 5 g, 1.0 equivalent | C(C1=CC=CC=C1)OC=1C=CC=C2C=CC(=NC12)NC1=C(C=C(C=C1)OCC1(COC1)C)[N+](=O)[O-] | C27H25N3O5
reactant | triethylamine | 56.2 mmol, 7.8 mL, 5.3 equivalents | C(C)N(CC)CC | C6H15N
reactant | formic acid | 56.2 mmol, 2.2 mL, 5.3 equivalents | C(=O)O | CH2O2
reactant | formamidine acetate | 22.3 mmol, 2.3 g, 2.1 equivalents | C(C)(=O)O.C(=N)N
catalyst | palladium hydroxide on carbon | 500 mg | [OH-].[OH-].[Pd+2]
solvent | ethanol | C(C)O | C2H6O
product | 2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-ol | 3.14 g, 82% yield | CC1(COC1)COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)O)C=C1 | C21H19N3O3
